Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x 3 (left internal 
mammary artery to left anterior descending artery, and saphenous 
    vein graft to ___ diagonal and ___ obtuse marginal artery).

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of asthma and 
hypertension. He presented to ___ with chest pain at 
rest. He stated that over the last ___ months he has felt more 
winded than usual. On the day prior to admission he noted waxing 
and waning chest pain. The following morning he developed chest 
pain at rest and presented to ___. Initial labs were 
notable for a troponin T of 0.34. A cardiac catheterization 
demonstrated multivessel disease. He was transferred to ___ 
for surgical evaluation. 
 
Past Medical History:
Asthma
Hypertension
Obesity

 
Social History:
___
Family History:
Family history of early CAD. Father with DM and died in his ___ 
with esophageal cancer. Extensive cardiac disease on his 
father's side of the family. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: Afebrile, Pulse:67 Resp:14  O2 sat:97/RA B/P  ___ 
Weight:113.3 kg
General:  Lying in bed, NAD
HEENT:  NCAT, PERRLA, EOMI, throat non-erythematous
Neck:  JVD flat
CV:  RRR, nl s1/s2, no murmurs, slightly displaced PMI
Lungs:  CTAB, no wheezes, rhonchi
Abdomen:  obese, +BS, nontender
GU:  Deferred
Extr:  No edema
Neuro:  CNII-XII intact, strength/sensation grossly intact, gait 
deferred
Skin:  no rash
 
Pertinent Results:
STUDIES:
Cardiac Catheterization ___ from ___: 
95% OM2 lesion; 40% dist LM; 40-50% LAD; RCA mild diffuse; EF 
normal
LMCA: lesion on LMCA distal subsection, 45% stenosis
LAD: lesion on ___ LAD. distal subsection 50% stenosis. Lesion 
on ___ diag ostial 85%.
LCX: lesion on ___ OM ___ subsection. 95% stenosis, culprit 
lesion.
RCA: diffuse irregularities. Lesion on ___ RCA mid subsection 
30% stenosis. 
Ramus: diffuse irregularities. Small caliber vessel.

Transesophageal Echocardiogram, Intraoperative ___
PRE-BYPASS: The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. The right ventricular cavity is mildly dilated with 
normal free wall contractility. There are focal calcifications 
in the aortic arch. There are simple atheroma in the descending 
thoracic aorta. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no 
pericardial effusion. Dr. ___ was notified in person of the 
results before surgical incision.

POST-BYPASS: 
Preserved biventricular systolic function.
LVEF 55%.Intact thoracic aorta.
No other new findings 

PA/LAT CXR ___:
Small right pleural effusion developed on ___, 
redistributed, probably unchanged in size.  No pneumothorax.  No 
pulmonary edema.  Mild bibasilar atelectasis.  Small left 
pleural effusion stable.  Normal postoperative increase in 
cardiomediastinal caliber is unchanged. 
LABS:
Admission:
___ 03:14AM BLOOD WBC-6.1 RBC-4.50* Hgb-13.5* Hct-41.9 
MCV-93 MCH-30.0 MCHC-32.2 RDW-12.7 RDWSD-43.2 Plt ___
___ 09:50PM BLOOD ___ PTT-51.0* ___
___ 09:50PM BLOOD Glucose-117* UreaN-19 Creat-1.0 Na-139 
K-3.6 Cl-103 HCO3-25 AnGap-15
___ 09:50PM BLOOD ALT-17 AST-26 LD(LDH)-166 CK(CPK)-115 
AlkPhos-58 TotBili-0.7
___ 09:50PM BLOOD proBNP-532*
___ 09:50PM BLOOD Albumin-4.2 Calcium-9.8 Phos-3.6 Mg-2.0 
Cholest-236*
___ 09:50PM BLOOD %HbA1c-5.5 eAG-111

 
Brief Hospital Course:
Mr. ___ was admitted to ___ on ___ and underwent 
routine preoperative testing and evaluation. He remained 
hemodynamically stable and was taken to the operating room on 
___. He underwent coronary artery bypass grafting x 3. 
Please see operative note for full details. He tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from inotropic and vasopressor 
support. Beta blocker was initiated and he was diuresed toward 
his preoperative weight. He remained hemodynamically stable and 
was transferred to the telemetry floor for further recovery.  He 
was evaluated by the physical therapy service for assistance 
with strength and mobility. By the time of discharge on POD#4 he 
was ambulating freely, the wound was healing, and pain was 
controlled with oral analgesics. He was discharged to home in 
good condition with appropriate follow up instructions.
 
Medications on Admission:
1. Aspirin 325 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
2. Acetaminophen 325-650 mg PO Q6H:PRN pain/temp 
3. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
5. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth every eight 
hours Disp #*90 Tablet Refills:*0
6. Milk of Magnesia 30 mL PO DAILY 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*65 Tablet Refills:*0
8. Ranitidine 150 mg PO BID 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
10. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p revascularization
Non-ST Elevation Myocardial Infarction

Asthma
Hypertension
Obesity
Tobacco abuse 

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Right Leg Incision - healing well, no erythema or drainage
Edema - trace BLE

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___